US04315014
A suspension of 1.38 g (6 mmol) of 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid, 60 ml of dichloromethane, and 2.6 ml (18 mmol) of triethylamine is stirred at 0°-5° and 2.6 ml (19.8 mmol) of chlorotrimethylsilane is added. The ice bath is removed and the mixture is stirred at room temperature for 1 hr. The solution is cooled to -78° and 2.26 ml (12 mmol) of trifluoromethanesulfonic anhydride is added. The reaction is stirred at -78° to 25° for 11/2 hours and at 25° for 3 hrs. The dichloromethane is evaporated under reduced pressure and the resulting solid is treated with water and filtered. The filter cake is washed with water and ether and dried to give 2.06 g of 6-[4-(trifluoromethylsulfonylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid; mp>260° C.

reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 6 mmol, 1.38 g | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | triethylamine | 18 mmol, 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 19.8 mmol, 2.6 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | trifluoromethanesulfonic anhydride | 12 mmol, 2.26 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 6-[4-(trifluoromethylsulfonylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 2.06 g | FC(S(=O)(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O)(F)F | C13H9F3N2O5S
